* Copyright © Linear Technology Corp. 2/15/05. All rights reserved.
* Pinout (Same as IC): VCCC VOCM VCCA VEEA OUTP OUTPF OUTMF OUTM VEEB VCCB EN_ VEEC INMB INMA INPB INPA
.SUBCKT LT1993-2 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16
RA1 14 20 200
RA2 20 5 200
RA3 16 21 200
RA4 21 22 200
RB1 15 24 200
RB2 24 8 200
RB3 13 23 200
RB4 22 23 200
CA1 20 5 0.35p
CB1 24 8 0.35p
CC1 22 32 12p
XA 21 20 31 32 5 11 1993AMPA
XB 23 24 31 32 8 11 1993AMPA
XC 2 22 31 32 22 11 1993AMPC
RVCC1 3 31 0.01
RVCC2 10 31 0.01
RVCC3 1 31 0.01
RVEE1 4 32 0.01
RVEE2 9 32 0.01
RVEE3 12 32 0.01
RF1 5 6 25
RF2 8 7 25
CF1 6 32 12p
CF2 7 32 12p
CF3 6 7 12p
RSHDN 11 31 1E8
.ENDS LT1993-2
*
.SUBCKT 1993AMPA 3 2 7 4 6 8
CG1 125 0 1E-9
CG2 128 0 800p
CG3 126 0 25n
CG4 129 0 1100p
DOUT1 25 26 DOUTP
DOUT2 26 25 DOUTN
DVL1 120 125 DVLIM
DVL2 120 0 DVLIM
EPWR1 117 0 VALUE={V(31)+V(25,26)-V(41,42)}
EPWR2 118 0 VALUE={V(30)+V(25,26)+V(41,42)}
ESHD1 42 0 VALUE={V(31)-10}
EVLIM1 30 0 VALUE={V(7)-1.25}
EVLIM2 31 0 VALUE={V(4)+0.45}
GG1 0 125 VALUE={1.1*TANH(V(23))}
GG2 0 128 127 0 6.2832
GG3 0 126 125 0 6.2832
GG4 0 129 128 0 6.2832
GGAIN 0 23 115 2 15.5
GINX 0 115 3 0 1
GOUT 0 25 VALUE={1E-3*TANH(V(24))}
GPWR 7 4 116 31 0.1
GSHD1 119 0 8 4 1
GVNOI1 0 115 121 0 1
GZP1 0 24 129 0 0.1
GZP2 0 127 126 0 0.1
IDUM1 121 0 0
IPWR1 0 116 35m
IPWR2 7 4 175u
ISHD2 0 119 2
IVOS 0 115 2.5m
LZP1 123 0 3.5n
LZP2 122 0 10n
MOUT1 30 25 26 26 NOUT
MOUT1X 7 117 31 31 NOUT
MOUT2 31 25 26 26 POUT
MOUT2X 4 118 30 30 POUT
MSHD1 26 119 124 124 NSW
MSHD10 31 119 116 116 PSW
MSHD11 41 119 31 31 PSW
MSHD2 6 119 124 124 NSW
RA 23 0 0.1
RG1 125 0 1000
RG2 128 0 0.159155
RG3 126 0 0.159155
RG4 129 0 0.159155
RINX 115 0 1
ROUT1 30 25 2E4
ROUT2 25 31 2E4
RPWR 116 31 10
RSHD2 119 31 10
RSHD3 42 41 1k
RSHDNZ 6 26 1E8
RVNOI 121 0 245
RZP1 24 122 10
RZP2 127 123 10
RZP3 123 0 30
RZP4 122 0 35
.MODEL NOUT NMOS(KP=5 VTO=-150m)
.MODEL POUT PMOS(KP=5 VTO=150m)
.MODEL NOUTX NMOS(KP=5 VTO=0)
.MODEL POUTX PMOS(KP=5 VTO=0)
.MODEL PSW PMOS(KP=5 VTO=-1M)
.MODEL NSW NMOS(KP=5 VTO=1M)
.MODEL DOUTP D(KF=0 RS=0 IS=1.028E-7)
.MODEL DOUTN D(KF=0 RS=0 IS=1.028E-7)
.MODEL DVLIM D(BV=0.5 IS=1E-10 KF=0 RS=0 XTI=0)
.ENDS 1993AMPA
*
.SUBCKT 1993AMPC 3 2 7 4 6 8
CG1 122 0 1E-9
CG2 124 0 1n
CG3 123 0 35n
CIN1 3 7 0.5p
CIN2 3 4 0.5p
DOUT1 25 26 DOUTP
DOUT2 26 25 DOUTN
DVL1 119 122 DVLIM
DVL2 119 0 DVLIM
EPWR1 116 0 VALUE={V(31)+V(25,26)-V(41,42)}
EPWR2 117 0 VALUE={V(30)+V(25,26)+V(41,42)}
ESHD1 42 0 VALUE={V(31)-10}
EVLIM1 30 0 VALUE={V(7)-1.1}
EVLIM2 31 0 VALUE={V(4)+0.7}
GG1 0 122 VALUE={0.5*TANH(V(23))}
GG2 0 124 123 0 6.2832
GG3 0 123 122 0 6.2832
GGAIN 0 23 115 2 0.77
GINX 0 115 3 0 1
GOUT 0 25 VALUE={1E-3*TANH(V(24))}
GSHD1 118 0 8 4 1
GZP1 0 24 124 0 0.1
IBIAS 3 0 10u
ISHD2 0 118 2
IVOS 0 115 5m
LZP1 120 0 20n
MOUT1 30 25 26 26 NOUT
MOUT1X 7 116 31 31 NOUT
MOUT2 31 25 26 26 POUT
MOUT2X 4 117 30 30 POUT
MSHD1 26 118 121 121 NSW
MSHD11 41 118 31 31 PSW
MSHD2 6 118 121 121 NSW
RA 23 0 0.1
RG1 122 0 1000
RG2 124 0 0.159155
RG3 123 0 0.159155
RIN1 3 7 2E6
RIN2 3 4 2E6
RINX 115 0 1
ROUT1 30 25 2E5
ROUT2 25 31 2E5
RSHD2 118 31 10
RSHD3 42 41 1k
RSHDNZ 6 26 1E8
RZP1 24 120 10
RZP2 120 0 90
.MODEL NOUT NMOS(KP=5 VTO=-10m)
.MODEL POUT PMOS(KP=5 VTO=10m)
.MODEL PSW PMOS(KP=5 VTO=-1M)
.MODEL NSW NMOS(KP=5 VTO=1M)
.MODEL DOUTP D(KF=0 RS=0 IS=1.028E-6)
.MODEL DOUTN D(KF=0 RS=0 IS=1.028E-6)
.MODEL DVLIM D(BV=0.5 IS=1E-10 KF=0 RS=0 XTI=0)
.ENDS 1993AMPC
