* Developer Alexander Bordodynov 
*
.subckt MOV-07D A B  V1ma_nom=470V V1ma_max=517V iClC=10A Vclamp_max=775V C=105p
.func F(i,a,n) {a*pwrs(i,n)}
C1 A B {C}
B1 A N001 V=F(i(b1),a,n)
L1 N001 B 10n Rser=10u Rpar=10
.param Vclamp={Vclamp_max*V1ma_nom/V1ma_max}
.param n={ln(Vclamp/V1ma_nom)/ln(1000*iclc)}
+          a={V1ma_nom/(1m)**n}
.ends MOV-07D

.subckt MOV-07D180K A B 
X A B MOV-07D V1ma_nom=18V V1ma_max=20V iClC=25A Vclamp_max=36V C=2800p
.ends

.subckt MOV-07D220K A B 
X A B MOV-07D220K V1ma_nom=22V V1ma_max=24V iClC=25A Vclamp_max=43V C=2300p
.ends

.subckt MOV-07D270K A B 
X A B MOV-07D270K V1ma_nom=27V V1ma_max=30V iClC=25A Vclamp_max=53V C=1800p
.ends

.subckt MOV-07D330K A B 
X A B MOV-07D V1ma_nom=33V V1ma_max=36V iClC=25A Vclamp_max=65V C=1250p
.ends

.subckt MOV-07D390K A B 
X A B MOV-07D V1ma_nom=39V V1ma_max=43V iClC=25A Vclamp_max=77V C=1300p
.ends

.subckt MOV-07D470K A B 
X A B MOV-07D V1ma_nom=47V V1ma_max=52V iClC=25A Vclamp_max=93V C=1100p
.ends

.subckt MOV-07D560K A B 
X A B MOV-07D V1ma_nom=56V V1ma_max=62V iClC=25A Vclamp_max=110V C=890p
.ends

.subckt MOV-07D680K A B 
X A B MOV-07D V1ma_nom=68V V1ma_max=75V iClC=25A Vclamp_max=135V C=740p
.ends

.subckt MOV-07D820K A B 
X A B MOV-07D V1ma_nom=82V V1ma_max=90V iClC=10A Vclamp_max=135V C=600p
.ends

.subckt MOV-07D101K A B 
X A B MOV-07D V1ma_nom=100V V1ma_max=110V iClC=10A Vclamp_max=165V C=500p
.ends

.subckt MOV-07D121 A B 
X A B MOV-07D V1ma_nom=120V V1ma_max=132V iClC=10A Vclamp_max=200V C=420p
.ends

.subckt MOV-07D151K A B 
X A B MOV-07D V1ma_nom=150V V1ma_max=165V iClC=10A Vclamp_max=250V C=330p
.ends

.subckt MOV-07D181K A B 
X A B MOV-07D V1ma_nom=180V V1ma_max=198V iClC=10A Vclamp_max=300V C=280p
.ends

.subckt MOV-07D201N A B 
X A B MOV-07D V1ma_nom=200V V1ma_max=225V iClC=10A Vclamp_max=340V C=250p
.ends

.subckt MOV-07D221K A B 
X A B MOV-07D V1ma_nom=220V V1ma_max=242V iClC=10A Vclamp_max=360V C=230p
.ends

.subckt MOV-07D241K A B 
X A B MOV-07D V1ma_nom=240V V1ma_max=264V iClC=10A Vclamp_max=395V C=210p
.ends

.subckt MOV-07D271K A B 
X A B MOV-07D V1ma_nom=270V V1ma_max=297V iClC=10A Vclamp_max=455V C=185p
.ends

.subckt MOV-07D301K A B 
X A B MOV-07D V1ma_nom=300V V1ma_max=330V iClC=10A Vclamp_max=500V C=165p
.ends

.subckt MOV-07D330K A B 
X A B MOV-07D V1ma_nom=330V V1ma_max=363V iClC=10A Vclamp_max=550V C=150p
.ends

.subckt MOV-07D360K A B 
X A B MOV-07D V1ma_nom=360V V1ma_max=396V iClC=10A Vclamp_max=595V C=140p
.ends

.subckt MOV-07D391K A B 
X A B MOV-07D V1ma_nom=390V V1ma_max=429V iClC=10A Vclamp_max=650V C=130p
.ends

.subckt MOV-07D431K A B 
X A B MOV-07D V1ma_nom=430V V1ma_max=473V iClC=10A Vclamp_max=710V C=115p
.ends

.subckt MOV-07D471K A B 
X A B MOV-07D V1ma_nom=470V V1ma_max=517V iClC=10A Vclamp_max=775V C=105p
.ends

.subckt MOV-07D511K A B 
X A B MOV-07D V1ma_nom=510V V1ma_max=561V iClC=10A Vclamp_max=845V C=100p
.ends

.subckt MOV-07D561K A B 
X A B MOV-07D V1ma_nom=560V V1ma_max=616V iClC=10A Vclamp_max=925V C=90p
.ends

.subckt MOV-07D621K A B 
X A B MOV-07D V1ma_nom=620V V1ma_max=682V iClC=10A Vclamp_max=1025V C=80p
.ends

.subckt MOV-07D681K A B 
X A B MOV-07D V1ma_nom=680V V1ma_max=748V iClC=10A Vclamp_max=1120V C=75p
.ends

.subckt MOV-07D751K A B 
X A B MOV-07D V1ma_nom=750V V1ma_max=825V iClC=10A Vclamp_max=1240V C=70p
.ends

.subckt MOV-07D781K A B 
X A B MOV-07D V1ma_nom=780V V1ma_max=858V iClC=10A Vclamp_max=1290V C=70p
.ends

.subckt MOV-07D821K A B 
X A B MOV-07D V1ma_nom=820V V1ma_max=902V iClC=10A Vclamp_max=1355V C=60p
.ends